US08975254B2
a) (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile
N-t-BOC-(R)-1-Amino-2-propanol (3.22 g, 18.4 mmol) and triphenylphosphine (4.82 g, 18.4 mmol) were dissolved in EtOAc (10 ml) and added to a solution of 2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile (2.00 g, 9.2 mmol) in EtOAc (20 ml). Reaction mixture was cooled down to 0° C. and DIAD (3.62 ml, 18.4 mmol) was added slowly by syringe. After 20 h of reaction time at RT, water (10 ml) and conc. HCl (5.58 ml, 184 mmol) were added, and the reaction was stirred another 20 h. Reaction mixture was diluted with water, washed with DCM, and the organic phase was extracted twice with diluted HCl. Combined water phases were washed twice with DCM, made alkaline (pH 12) by adding 50% NaOH solution, and extracted twice with DCM. Combined organic phases were dried over Na2SO4 and evaporated to yield 0.74 g (29%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.43 (d, 3H), 2.57 (s, 3H), 4.29-4.38 (m, 1H), 4.70-4.85 (m, 2H), 6.63 (d, 1H), 7.69 (dd, 1H), 7.82 (dd, 1H), 7.89 (d, 1H). m/z [274.8+1].

reactant | triphenylphosphine | 18.4 mmol, 4.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile | 9.2 mmol, 2.00 g | ClC1=C(C#N)C=CC(=C1C)C1=NNC=C1 | C11H8ClN3
reactant | DIAD | 18.4 mmol, 3.62 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 184 mmol, 5.58 ml | Cl | ClH
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.74 g, 29% | NC[C@@H](C)N1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C | C14H15ClN4
